US05183587
(iii) Preparation of trans-1-[4-(E-2-fluoro-1-ethenyl)phenyl]-4-propylcyclohexane
To trans-4-propyl-[4-(2,2-difluoro-1-ethenyl)phenyl]cyclohexane (23.4 g, 0.089 mol) were gradually added benzene (50 ml) and a 70 wt. % toluene solution of sodium bis(2-methoxyethoxy)aluminum hydride (50 ml) at a reaction temperature of -5° C. or lower with stirring, followed by gradually raising the reaction temperature up to 0° C. over 20 minutes, pouring the reaction solution in ice water (500 ml), extracting the resulting product with toluene (300 ml), twice washing with 6N-HCl (300 ml), further washing with water till the aqueous layer became neutral, drying the toluene solution over anhydrous magnesium sulfate, filtering off the drying agent, distilling off toluene, dissolving the residue in heptane, purifying according to silica gel chromatography, vacuum-distilling (130° C., 1.2 mmHg), five times recrystallizing from a mixed solvent of heptane and ethanol (1:1) and drying to obtain the objective substance (2.66 g, 0.011 mol). This compound exhibited a CN point of 24° C. and an NI point of 70° C.

reactant | trans-4-propyl-[4-(2,2-difluoro-1-ethenyl)phenyl]cyclohexane | 0.089 mol, 23.4 g | C(CC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C=C(F)F | C17H22F2
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
reactant | sodium bis(2-methoxyethoxy)aluminum hydride | 50 ml | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | trans-1-[4-(E-2-fluoro-1-ethenyl)phenyl]-4-propylcyclohexane | F/C=C/C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCC | C17H23F
